US07612114B2
6-{2-{[4-(2-Azepan-1-ylethoxy)benzyl]methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (25 mg) and 1-azepan-1-yl-2-chloroethanone (18 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (2.1 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 25 mg | OC1=CC=C(C(=O)CNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C30H33NO5
reactant | 1-azepan-1-yl-2-chloroethanone | 18 mg | N1(CCCCCC1)C(CCl)=O | C8H14ClNO
product | 6-{2-{[4-(2-Azepan-1-ylethoxy)benzyl]methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 2.1 mg | N1(CCCCCC1)CCOC1=CC=C(CCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C=C1 | C33H42N2O3
